US08580762B2
N-(2,4-dimethoxybenzyl)-7-((3aS,4R,6R,6aR)-2,2-dimethyl-6-((methyl(3-(2-(5-(trifluoromethoxy)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)amino)methyl)tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine
A solution of N-(2-amino-4-(trifluoromethoxy)phenyl)-3-(3-((((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)propanamide (2 g, 2 mmol) in Acetic acid (4 ml) was stirred overnight at 60° C. The volatiles removed in vacuo and remaining residue purified by flash chromatography (DCM/7N NH3 in MeOH 92:8) to give the desired compound (1 g) as a solid.

reactant | N-(2-amino-4-(trifluoromethoxy)phenyl)-3-(3-((((3aR,4R,6R,6aS)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)propanamide | 2 mmol, 2 g | NC1=C(C=CC(=C1)OC(F)(F)F)NC(CCC1CC(C1)N(C)C[C@H]1C[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C=CC1=C2N=CN=C1NCC1=C(C=C(C=C1)OC)OC)=O | C39H48F3N7O6
solvent | Acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | N-(2,4-dimethoxybenzyl)-7-((3aS,4R,6R,6aR)-2,2-dimethyl-6-((methyl(3-(2-(5-(trifluoromethoxy)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)amino)methyl)tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 1 g | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3C[C@@H]([C@H]2OC(O[C@H]23)(C)C)CN(C2CC(C2)CCC2=NC3=C(N2)C=CC(=C3)OC(F)(F)F)C)C=CC(=C1)OC | C39H46F3N7O5
